US04564694
67 Grams of the p-(3-methoxypropyl)acetophenone and 620 ml of 88% formic acid (HCOOH) were mixed and stirred, after which 310 ml of acetic anhydride ((CH3CO)2O), 4 ml of concentrated sulfuric acid, and 110 ml of a 35% aqueous hydrogen perioxide solution were added thereto dropwise in that order. The resulting solution was heated to a temperature of 40° to 50° C. and then stirred for 8 hours, after which this reaction solution was poured into water. The separated oil layer was extracted, and the solvent was distilled off, after which 100 ml of CH3OH and 250 ml of a 2N aqueous sodium hydroxide solution were added to the residue, and the thus obtained solution was heated and refluxed for 2 hours. After being cooled, this reaction solution was made acid with hydrochloric acid to separate oil layer. The oil layer was extracted with benzene, and the benzene was distilled off, after which the residue was distilled under reduced pressure to obtain p-(3-methoxypropyl)phenol. The boiling point of this compound was 106°-108° C./10 mmHg. In a mixture of 100 ml of benzene and 5 ml of pyridine was dissolved 10 g of the p-(3-methoxypropyl)phenol, and 14 g of p-(3-methoxypropyl)phenyl 4-pentylcyclohexane carboxylate was added thereto dropwise, and the resulting solution was stirred at room temperature continuously for 3 hours. This reaction solution was poured into water and extracted with benzene, and the benzene was distilled off, after which the residue was recrystallized from CH3COCH3.

reactant | p-(3-methoxypropyl)acetophenone | COCCCC1=CC=C(C=C1)C(C)=O | C12H16O2
reactant | acetic anhydride | 310 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen | [H][H] | H2
solvent | water | O | H2O
solvent | formic acid | 620 ml | C(=O)O | CH2O2
product | p-(3-methoxypropyl)phenol | COCCCC1=CC=C(C=C1)O | C10H14O2
